US03937729
Preparation of Meta-propionamido isobutyranilide
Meta-amino propionanilide, 11.5g. (0.07 moles) is treated with isobutyric anhydride, 11.1g. (0.07 moles) is an open beaker. The product is poured into water and washed with 5 percent hydrochloric acid solution, 5 percent sodium hydroxide solution, and water. The product is dried of water. There is obtained 15.2g. (93 percent of theory) of the title compound, m.p. 174°-175°C.

reactant | Meta-amino propionanilide | NC=1C=C(NC(CC)=O)C=CC1 | C9H12N2O
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | water | O | H2O
product | Meta-propionamido isobutyranilide | C(CC)(=O)NC=1C=C(NC(C(C)C)=O)C=CC1 | C13H18N2O2
